US06251925B1
3′-hydroxy-[1,1′-biphenyl]-3-carboxylic acid methyl ester
To a −78° C. solution of methyl 3-(3-methoxyphenyl)-benzoate (1.48 g) in anhydrous methylene chloride (16 mL) was added dropwise a solution of boron tribromide in methylene chloride (1.0 M, 16.3 mL). The mixture was stirred at −78° C. for 30 min, allowed to warm to 0° C., and stirred for 2 h. The mixture was quenched by addition of saturated aqueous sodium bicarbonate (50 mL), and diluted with methylene chloride (50 mL). The mixture was placed in a separatory funnel, and the organic layer was separated, dried over sodium sulfate, filtered and concentrated to give the crude product. Purification by silica gel chromatography (eluting with 5:1 hexanes/ethyl acetate) afforded the title compound (769 mg) as a pale yellow oil.

reactant | methyl 3-(3-methoxyphenyl)-benzoate | 1.48 g | COC=1C=C(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C15H14O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.0 M, 16.3 mL | C(Cl)Cl | CH2Cl2
product | 3′-hydroxy-[1,1′-biphenyl]-3-carboxylic acid methyl ester | 769 mg | COC(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)O | C14H12O3
